* C:\Users\daw0043\Documents\GitHub\SSTstuff\SST1Circuit.asc
V1 Bridge2 P001 SINE(0 75m 440) Rser=0
V2 P001 P002 SINE(0 56m 880)
V3 P002 P003 SINE(0 43m 1320)
V4 P003 P004 SINE(0 32m 1760)
V5 P004 P005 SINE(0 24m 2200)
V6 P005 P006 SINE(0 19m 2640)
V7 P006 0 SINE(0 16m 3080)
V8 Bridge1 P007 SINE(0 73m 440) Rser=0
V9 P007 P008 SINE(0 54m 880)
V10 P008 P009 SINE(0 40m 1320)
V11 P009 P010 SINE(0 32m 1760)
V12 P010 P011 SINE(0 25m 2200)
V13 P011 P012 SINE(0 22m 2640)
V14 P012 0 SINE(0 19m 3080)
V15 Neck2 P013 SINE(0 1 1K)
V16 P013 P014 SINE(0 1 1K)
V17 P014 P015 SINE(0 1 1K)
V18 P015 P016 SINE(0 1 1K)
V19 P016 P017 SINE(0 1 1K)
V20 P017 P018 SINE(0 1 1K)
V21 P018 0 SINE(0 1 1K)
V22 Neck1 P019 SINE(0 1 1K)
V23 P019 P020 SINE(0 1 1K)
V24 P020 P021 SINE(0 1 1K)
V25 P021 P022 SINE(0 1 1K)
V26 P022 P023 SINE(0 1 1K)
V27 P023 P024 SINE(0 1 1K)
V28 P024 0 SINE(0 1 1K)
B1 N005 0 V=V(Bridge1)
B2 N004 N003 V=V(Bridge2)
B3 NC_01 0 V=V(Neck1)
B4 NC_02 0 V=V(Neck2)
R§BRTone N007 N010 500k
R§BRVol N009 0 500k
C1 N010 0 22n V=25 Irms=25 Rser=0
R3 N001 N002 5.5k
R4 N004 N006 5.5k
C2 N001 0 120p
L1 N002 N005 2.3H
L2 N001 N003 2.3H
C3 N001 N006 120p
C4 N009 N009 .7p
R2 N009 N009 330k
C5 ODin N006 1µ
C6 N015 ODin 22n
R5 N016 N015 1k
R6 0 ODin 1MEG
R7 N016 Vbias 1MEG
C7 N016 0 1n
XU1 N016 N011 Vcc 0 N012 LT1001
C8 N012 N011 100pF
R8 N011 N024 1k
C9 N024 0 220n
R§GAIN N012 N011 100k
V29 N021 0 9
D1 N021 Vcc D
C10 Vcc 0 100n
R11 Vcc Vbias 22k
R12 0 Vbias 22k
C11 Vbias 0 10µ
C12 Vcc 0 100µ
C13 N013 N025 100n
R10 N014 N013 10k
XU2 Vbias N014 Vcc 0 N017 LT1001
C14 N017 N014 100p
R13 N017 N014 250k
C15 N018 N017 1µ
R14 N019 N018 470
C16 N020 0 22n
R17 N023 0 100k
C17 N026 0 22n
D2 N019 0 D
D3 0 N019 D
M1 N019 N019 0 0 NMOS
M2 N027 N027 N019 N019 NMOS
D4 N027 0 D
D5 N019 N028 D
D6 N028 N019 D
R18 N022 N023 1
R15 N019 N019 10k
R19 N020 N019 1
R16 N022 N026 25k
R20 N020 N022 1
R21 N025 N012 1
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 0 .02s 0s
* Treble Bleed
* Bridge Rail (North
* Bridge Slugs(South)
* Red Wire
* Green/Bare
* Black
* White
.lib LTC.lib
.backanno
.end
