* C:\Users\daw0043\Documents\GitHub\SSTstuff\SST1Circuit.asc
V1 Bridge2 P001 SINE(0 75m 440) Rser=0
V2 P001 P002 SINE(0 56m 880)
V3 P002 P003 SINE(0 43m 1320)
V4 P003 P004 SINE(0 32m 1760)
V5 P004 P005 SINE(0 24m 2200)
V6 P005 P006 SINE(0 19m 2640)
V7 P006 0 SINE(0 16m 3080)
V8 Bridge1 P007 SINE(0 73m 440) Rser=0
V9 P007 P008 SINE(0 54m 880)
V10 P008 P009 SINE(0 40m 1320)
V11 P009 P010 SINE(0 32m 1760)
V12 P010 P011 SINE(0 25m 2200)
V13 P011 P012 SINE(0 22m 2640)
V14 P012 0 SINE(0 19m 3080)
V15 Neck2 P013 SINE(0 1 1K)
V16 P013 P014 SINE(0 1 1K)
V17 P014 P015 SINE(0 1 1K)
V18 P015 P016 SINE(0 1 1K)
V19 P016 P017 SINE(0 1 1K)
V20 P017 P018 SINE(0 1 1K)
V21 P018 0 SINE(0 1 1K)
V22 Neck1 P019 SINE(0 1 1K)
V23 P019 P020 SINE(0 1 1K)
V24 P020 P021 SINE(0 1 1K)
V25 P021 P022 SINE(0 1 1K)
V26 P022 P023 SINE(0 1 1K)
V27 P023 P024 SINE(0 1 1K)
V28 P024 0 SINE(0 1 1K)
B1 N005 0 V=V(Bridge1)
B2 N004 N003 V=V(Bridge2)
B3 NC_01 0 V=V(Neck1)
B4 NC_02 0 V=V(Neck2)
R§BRTone N007 N010 500k
R§BRVol N009 0 500k
C1 N010 0 22n V=25 Irms=25 Rser=0
R3 N001 N002 5.5k
R4 N004 N006 5.5k
C2 N001 0 120p
L1 N002 N005 2.3H
L2 N001 N003 2.3H
C3 N001 N006 120p
C4 N009 N009 .7p
R2 N009 N009 330k
C5 ODin N006 1µ
C6 N017 ODin 22n
R5 N018 N017 1k
R6 0 ODin 1MEG
R7 N018 Vbias 1MEG
C7 N018 0 33p
XU1 N018 N013 Vcc 0 N014 LT1001
C8 N014 N013 100pF
R8 N013 N026 1k
C9 N026 0 220n
V29 N021 0 9
D1 N021 Vcc D
C10 Vcc 0 100n
R11 Vcc Vbias 22k
R12 0 Vbias 22k
C11 Vbias 0 100µ
C12 Vcc 0 100µ
C13 N015 N027 100n
R10 N016 N015 10k
XU2 Vbias N016 Vcc 0 N019 LT1001
C14 N019 N016 100p
R§1MEGTrim N019 N016 1MEG
C15 N020 N019 2.2µ
R14 N011 N020 470
C16 N012 0 22n
R17 N024 0 500k
C17 N025 0 22n
D2 N029 0 D
D3 0 N029 D
R18 N022 N024 1
R15 N012 N011 1
R19 N012 N012 500k
R16 N022 N025 500k
R20 N012 N022 1
R21 N027 N014 1
C18 NC_03 N024 1µ
R22 N012 N011 10k
R23 N027 N013 125k
D4 N023 N013 D
D7 N013 N023 D
D8 N028 N031 D
D9 N031 0 D
D10 0 N028 D
D5 N030 N032 D
D6 N032 0 D
D11 0 N033 D
D12 N033 N030 D
R9 N011 N028 220
C19 N028 0 1n
R24 N012 N025 27k
R25 N022 0 125k
R26 N014 N013 500k
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.tran 0 .04s .02s
* Treble Bleed
* Bridge Rail (North
* Bridge Slugs(South)
* Red Wire
* Green/Bare
* Black
* White
.lib LTC.lib
.backanno
.end
