* C:\Users\daw0043\Documents\GitHub\SSTstuff\SST1Circuit.asc
V1 Bridge2 P001 SINE(0 75m 440) Rser=0
V2 P001 P002 SINE(0 56m 880)
V3 P002 P003 SINE(0 43m 1320)
V4 P003 P004 SINE(0 32m 1760)
V5 P004 P005 SINE(0 24m 2200)
V6 P005 P006 SINE(0 19m 2640)
V7 P006 0 SINE(0 16m 3080)
V8 Bridge1 P007 SINE(0 73m 440) Rser=0
V9 P007 P008 SINE(0 54m 880)
V10 P008 P009 SINE(0 40m 1320)
V11 P009 P010 SINE(0 32m 1760)
V12 P010 P011 SINE(0 25m 2200)
V13 P011 P012 SINE(0 22m 2640)
V14 P012 0 SINE(0 19m 3080)
V15 Neck2 P013 SINE(0 1 1K)
V16 P013 P014 SINE(0 1 1K)
V17 P014 P015 SINE(0 1 1K)
V18 P015 P016 SINE(0 1 1K)
V19 P016 P017 SINE(0 1 1K)
V20 P017 P018 SINE(0 1 1K)
V21 P018 0 SINE(0 1 1K)
V22 Neck1 P019 SINE(0 1 1K)
V23 P019 P020 SINE(0 1 1K)
V24 P020 P021 SINE(0 1 1K)
V25 P021 P022 SINE(0 1 1K)
V26 P022 P023 SINE(0 1 1K)
V27 P023 P024 SINE(0 1 1K)
V28 P024 0 SINE(0 1 1K)
B1 N005 0 V=V(Bridge1)
B2 N004 N003 V=V(Bridge2)
B3 NC_01 0 V=V(Neck1)
B4 NC_02 0 V=V(Neck2)
R§BRTone N007 N010 500k
R§BRVol N009 0 500k
C1 N010 0 22n V=25 Irms=25 Rser=0
R3 N001 N002 5.5k
R4 N004 N006 5.5k
C2 N001 0 120p
L1 N002 N005 2.3H
L2 N001 N003 2.3H
C3 N001 N006 120p
C4 N009 N009 .7p
R2 N009 N009 330k
C5 ODin N006 1µ
V29 N033 0 9V
R5 Vcc N034 10
D1 N033 N034 D
C6 Vcc 0 100n
C7 Vcc 0 100n
C8 Vcc 0 100n
C§polar1 Vcc 0 100µ
C§polar2 N011 0 22µ
C11 N011 0 100n
R6 Vcc N011 10k
R7 N011 0 10k
R8 N039 N011 2.2k
XU3.2 N039 Vref Vcc 0 Vref LT1001
R9 N027 0 470k
R10 N011 N028 470k
R11 N020 Vref 22k
R12 N023 N020 39k
R13 N040 N024 4.7k
R§TightPot Vref N040 100k
R15 N024 N025 10k
C9 N028 N027 22n
R16 N026 N028 10k
C10 N026 0 470p
Cap1 N024 N023 10n
XUL1 N026 N020 Vcc 0 N023 LT1001
R17 Vref Vref 1
C13 N025 0 1n
XU1 N025 N019 Vcc 0 N021 LT1001
C12 N035 0 100n
C14 N021 N019 120pF
D2 N021 N019 D
D3 N019 N021 D
R14 N021 N019 1
R18 N021 N021 1MEG
R20 N025 N035 22k
C15 N022 N021 47n
R21 N015 N022 22k
R22 N036 N015 22k
R23 N015 N018 220k
C16 N018 N036 120p
D4 N037 N036 D
D5 N036 N043 D
D6 N037 N018 D
D7 N018 N043 D
XU2 Vref N015 Vcc 0 N018 LT1001
R24 N013 N018 27k
R25 N030 N013 10k
R26 N030 N030 50k
R27 N030 N016 50k
C17 N016 N030 100p
XU3 Vref N013 Vcc 0 N016 LT1001
R19 N019 Vref 22k
C18 N030 N041 10n
R§Presence N041 N042 10k
R29 N042 N042 1
R30 N042 0 2.2k
C19 N016 N029 10n
D8 N029 Vref D
D9 Vref N029 D
R28 N016 N017 5k
R31 N017 N032 5k
C20 N032 0 50n
XU4 N017 N012 Vcc 0 N014 LT1001
R32 N031 N012 22k
R33 N014 N031 22k
C21 N014 N012 22n
C23 N031 N038 220n
R§Bass N038 0 1
R37 0 0 100k
V30 N027 0 AC 1 0
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
;tran 0 .04s .02s
* Treble Bleed
* Bridge Rail (North
* Bridge Slugs(South)
* Red Wire
* Green/Bare
* Black
* White
.ac oct 10 72 20000
.lib LTC.lib
.backanno
.end
