* C:\Users\Aaron\Documents\GitHub\SSTstuff\SST1Circuit.asc
V1 Bridge2 P001 SINE(0 75m 440) Rser=0
V2 P001 P002 SINE(0 56m 880)
V3 P002 P003 SINE(0 43m 1320)
V4 P003 P004 SINE(0 32m 1760)
V5 P004 P005 SINE(0 24m 2200)
V6 P005 P006 SINE(0 19m 2640)
V7 P006 0 SINE(0 16m 3080)
V8 Bridge1 P007 SINE(0 73m 440) Rser=0
V9 P007 P008 SINE(0 54m 880)
V10 P008 P009 SINE(0 40m 1320)
V11 P009 P010 SINE(0 32m 1760)
V12 P010 P011 SINE(0 25m 2200)
V13 P011 P012 SINE(0 22m 2640)
V14 P012 0 SINE(0 19m 3080)
V15 Neck2 P013 SINE(0 1 1K)
V16 P013 P014 SINE(0 1 1K)
V17 P014 P015 SINE(0 1 1K)
V18 P015 P016 SINE(0 1 1K)
V19 P016 P017 SINE(0 1 1K)
V20 P017 P018 SINE(0 1 1K)
V21 P018 0 SINE(0 1 1K)
V22 Neck1 P019 SINE(0 1 1K)
V23 P019 P020 SINE(0 1 1K)
V24 P020 P021 SINE(0 1 1K)
V25 P021 P022 SINE(0 1 1K)
V26 P022 P023 SINE(0 1 1K)
V27 P023 P024 SINE(0 1 1K)
V28 P024 0 SINE(0 1 1K)
B1 N005 0 V=V(Bridge1)
B2 N004 N003 V=V(Bridge2)
B3 NC_01 0 V=V(Neck1)
B4 NC_02 0 V=V(Neck2)
R§BRTone N007 N010 500k
R§BRVol N009 0 500k
C1 N010 0 22n V=25 Irms=25 Rser=0
R3 N001 N002 5.5k
R4 N004 N006 5.5k
C2 N001 0 120p
L1 N002 N005 2.3H
L2 N001 N003 2.3H
C3 N001 N006 120p
C4 N009 N009 .7p
R2 N009 N009 330k
C5 ODin N006 1µ
V29 N040 0 9V
R5 Vcc N041 10
D1 N040 N041 D
C6 Vcc 0 100n
C7 Vcc 0 100n
C8 Vcc 0 100n
C§polar1 Vcc 0 100µ
C§polar2 N011 0 22µ
C11 N011 0 100n
R6 Vcc N011 10k
R7 N011 0 10k
R8 N047 N011 2.2k
XU3.2 N047 Vref Vcc 0 Vref LT1001
R9 N032 0 1MEG
R10 N011 N033 470k
R11 N024 Vref 22k
R12 N027 N024 39k
R13 N048 N028 4.7k
R§TightPot Vref N048 10k
R15 N028 N029 10k
C9 N033 N032 22n
R16 N030 N033 10k
C10 N030 0 1n
Cap1 N028 N027 10n
XUL1 N030 N024 Vcc 0 N027 LT1001
R17 Vref Vref 90k
C13 N029 0 1n
XU1 N029 N023 Vcc 0 N025 LT1001
C12 N042 0 100n
C14 N025 N023 120pF
D2 N025 N023 D
D3 N023 N025 D
R14 N025 N023 500k
R18 N025 N025 500k
R20 N029 N042 22k
C15 N026 N025 47n
R21 N019 N026 22k
R22 N043 N019 22k
R23 N019 N022 220k
C16 N022 N043 120p
D4 N044 N043 D
D5 N043 N051 D
D6 N044 N022 D
D7 N022 N051 D
XU2 Vref N019 Vcc 0 N022 LT1001
R24 N016 N022 10k
R25 N036 N016 10k
R26 N036 N036 50k
R27 N036 N020 50k
C17 N020 N036 120p
XU3 Vref N016 Vcc 0 N020 LT1001
R19 N023 Vref 22k
C18 N036 N049 10n
R§Presence N049 N050 9k
R29 N050 N050 1k
R30 N050 0 2.2k
C19 N020 N034 10n
D8 N034 Vref D
D9 Vref N034 D
R28 N020 N021 5k
R31 N021 N038 5k
C20 N038 0 4.7n
XU4 N021 N013 Vcc 0 N017 LT1001
R32 N037 N013 22k
R33 N017 N037 22k
C21 N017 N013 22n
C23 N037 N045 220n
R§Bass N045 0 10k
R37 0 0 90k
V30 N032 0 AC 1 0
XU5 N018 N012 Vcc 0 N014 LT1001
R34 N017 0 470k
R35 N018 N017 2.2k
R36 N012 N035 2.2k
R§MID N014 N035 100k
R39 N035 N039 1
R40 N039 N046 22k
C22 N046 0 10n
C25 N015 N014 220n
R§Volume N015 N031 25k
R41 N031 0 25k
C24 N014 N012 2.2n
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
;tran 0 .04s .02s
* Treble Bleed
* Bridge Rail (North
* Bridge Slugs(South)
* Red Wire
* Green/Bare
* Black
* White
.ac oct 10 10 100000
.lib LTC.lib
.backanno
.end
