* C:\Users\Aaron\Documents\GitHub\SSTstuff\SST1Circuit.asc
V1 Bridge2 P001 SINE(0 75m 440) Rser=0
V2 P001 P002 SINE(0 56m 880)
V3 P002 P003 SINE(0 43m 1320)
V4 P003 P004 SINE(0 32m 1760)
V5 P004 P005 SINE(0 24m 2200)
V6 P005 P006 SINE(0 19m 2640)
V7 P006 0 SINE(0 16m 3080)
V8 Bridge1 P007 SINE(0 73m 440) Rser=0
V9 P007 P008 SINE(0 54m 880)
V10 P008 P009 SINE(0 40m 1320)
V11 P009 P010 SINE(0 32m 1760)
V12 P010 P011 SINE(0 25m 2200)
V13 P011 P012 SINE(0 22m 2640)
V14 P012 0 SINE(0 19m 3080)
V15 Neck2 P013 SINE(0 1 1K)
V16 P013 P014 SINE(0 1 1K)
V17 P014 P015 SINE(0 1 1K)
V18 P015 P016 SINE(0 1 1K)
V19 P016 P017 SINE(0 1 1K)
V20 P017 P018 SINE(0 1 1K)
V21 P018 0 SINE(0 1 1K)
V22 Neck1 P019 SINE(0 1 1K)
V23 P019 P020 SINE(0 1 1K)
V24 P020 P021 SINE(0 1 1K)
V25 P021 P022 SINE(0 1 1K)
V26 P022 P023 SINE(0 1 1K)
V27 P023 P024 SINE(0 1 1K)
V28 P024 0 SINE(0 1 1K)
B1 N005 0 V=V(Bridge1)
B2 N004 N003 V=V(Bridge2)
B3 NC_01 0 V=V(Neck1)
B4 NC_02 0 V=V(Neck2)
R§BRTone N007 N010 500k
R§BRVol N009 0 500k
C1 N010 0 22n V=25 Irms=25 Rser=0
R3 N001 N002 5.5k
R4 N004 N006 5.5k
C2 N001 0 120p
L1 N002 N005 2.3H
L2 N001 N003 2.3H
C3 N001 N006 120p
C4 N009 N009 .7p
R2 N009 N009 330k
C5 ODin N006 1µ
V29 N042 0 9V
R5 Vcc N043 10
D1 N042 N043 D
C6 Vcc 0 100n
C7 Vcc 0 100n
C8 Vcc 0 100n
C§polar1 Vcc 0 100µ
C§polar2 N011 0 22µ
C11 N011 0 100n
R6 Vcc N011 10k
R7 N011 0 10k
R8 N048 N011 2.2k
XU3.2 N048 Vref Vcc 0 Vref LT1001
R9 N033 0 1MEG
R10 N011 N034 470k
R11 N023 Vref 22k
R12 N026 N023 39k
R13 N049 N027 4.7k
R§TightPot Vref N049 1
R15 N027 N028 10k
C9 N034 N033 22n
R16 N029 N034 10k
C10 N029 0 47p
Cap1 N027 N026 10n
XUL1 N029 N023 Vcc 0 N026 LT1001
R17 Vref Vref 1
C13 N028 0 1n
XU1 N028 N022 Vcc 0 N024 LT1001
D2 N024 N041 D
D3 N041 N024 D
R§Gain1MEG N024 N041 500k
R18 N024 N024 500k
C15 N025 N024 47n
R21 N017 N025 22k
R22 N044 N017 22k
R23 N017 N021 220k
C16 N021 N044 120p
XU2 Vref N017 Vcc 0 N021 LT1001
R24 N014 N021 10k
R25 N038 N014 10k
R26 N038 N038 50k
R§GainTRIM N038 N018 50k
C17 N018 N038 100p
XU3 Vref N014 Vcc 0 N018 LT1001
R28 N019 N020 50k
R31 N020 N040 50k
C20 N040 0 4.7n
XU4 N020 N013 Vcc 0 N015 LT1001
R32 N039 N013 33k
R33 N015 N039 33k
C21 N015 N013 22n
C23 N039 N046 220n
R§Bass N046 0 10k
R37 0 0 90k
V30 N033 0 AC 1 0
XU5 N031 N032 Vcc 0 N035 LT1001
R35 N016 N015 2.2k
R36 N032 N047 2.2k
R§MID N035 N047 50k
R39 N047 N050 50k
R40 N050 N051 22k
C22 N051 0 10n
R§Volume N016 N030 25k
R41 N030 Vref 25k
C24 N035 N032 2.2n
C12 N024 N022 47p
R14 N022 N041 22k
R19 N022 N045 22k
C14 N045 0 100n
Q1 NC_03 N044 N021 0 PNP
Q2 NC_04 N021 N044 0 PNP
R§Presence N012 N018 10k
R27 N012 N012 1
R29 N019 N012 2.2k
C18 N019 0 10n
D4 N019 Vref D
D5 Vref N019 D
C19 N036 N035 220n
R34 N030 Vref 470k
R38 N031 N030 2.2k
R42 N036 0 100k
R43 N037 N036 3.3k
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.bjt
;tran 0 .04s .02s
* Treble Bleed
* Bridge Rail (North
* Bridge Slugs(South)
* Red Wire
* Green/Bare
* Black
* White
.ac oct 10 10 100000
* Higher = Less tight
* More = Less Bass
* More =More mid
* Rev Log
* Linear
* Rev Log
* Linear
* Audio
* Rev Log
.lib LTC.lib
.backanno
.end
